US08138181B2
Step 3B: Preparation of (trans)-4-(2-(7-(2-methoxvethoxv)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidin-3-ol:
A 25 mL flask was charged with (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate (0.100 g, 0.165 mmol), EtOH (1.6 mL), THF (1.6 mL), 2 N HCl (0.2 mL) and 10% Degussa type Pd/C (0.018 g, 0.017 mmol), and the reaction was placed under a balloon of H2 and stirred for 2 hours. The reaction was filtered (GF/F paper), the filter paper was washed with 2 N HCl and THF, the aqueous phase was washed with DCM, neutralized with saturated NaHCO3, and then extracted with DCM. The organic layer was dried and condensed to afford 14 mg of the desired product. MS APCI (+) m/z 421.2 (M+1) detected.

reactant | (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | 0.165 mmol, 0.100 g | O[C@@H]1CN(C[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C35H32N4O6
reactant | EtOH | 1.6 mL | CCO | C2H6O
reactant | HCl | 2 N, 0.2 mL | Cl | ClH
catalyst | Pd/C | 0.017 mmol, 0.018 g | [Pd] | Pd
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | (trans)-4-(2-(7-(2-methoxvethoxv)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidin-3-ol | 14 mg | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O[C@H]2[C@@H](CNC2)O | C23H24N4O4
